US07312211B2
N-methylmorpholine (1.7 mL, 2.2 equiv) was added to a solution of (2S, 3S)-N-Boc-O-t-butylthreonine (2.0 g, 7.0 mmol, 1.0 equiv) in anhydrous CH2Cl2 (40 mL). The resulting solution was cooled to −15° C. under an argon atmosphere. Iso-butylchloroformate (0.94 mL, 1.03 equiv) was added and the mixture was stirred for 20 min. A solution of diazomethane in Et2O (75 mL, about 67 mmol) was added over 5 min, the cold bath was removed and the reaction was allowed to warm over a 1 h period. Acetic acid was added dropwise until the bubbling stopped. The reaction solution was diluted with CH2Cl2 (150 mL) and washed sequentially with saturated sodium bicarbonate (2×100 mL), water (1×100 mL) and saturated brine (1×100 mL). The organic layer was dried over Na2SO4, decanted and concentrated in vacuo to yield (2S, 3S)-N-Boc-O-t-butyl-threonyldiazomethane as a yellow oil that was used without further purification.

reactant | N-methylmorpholine | 1.7 mL, 2.2 equiv | CN1CCOCC1 | C5H11NO
reactant | (2S, 3S)-N-Boc-O-t-butylthreonine | 7.0 mmol, 2.0 g, 1.0 equiv | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](OC(C)(C)C)C)C(=O)O | C13H25NO5
reactant | Iso-butylchloroformate | 0.94 mL, 1.03 equiv | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Et2O | about 67 mmol, 75 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (2S, 3S)-N-Boc-O-t-butyl-threonyldiazomethane | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](OC(C)(C)C)C)C(=O)C=[N+]=[N-] | C14H25N3O4
